US03998863
(4-Tert.-butyl-3-hydroxy-2,6-dimethylbenzyl)laurate
A mixture of 30 g. (0.13 mole) of 4-tert.-butyl 3-hydroxy-2,6-dimethylbenzyl chloride and 29.4 g. (0.13 mole) of sodium laurate in 35 ml. of dimethylformamide was heated at 94°-102° C. for a period of 7 hours. The hot melt was added to 300 g. of ice water slurry. The oil was taken up in 250 ml. of benzene, washed with water and dried over anhydrous sodium sulfate. The salt was filtered and the filtrate concentrated in vacuo to give 44 g. of an oil.

reactant | 4-tert.-butyl 3-hydroxy-2,6-dimethylbenzyl chloride | 0.13 mole | C(C)(C)(C)C1=C(C(=C(CCl)C(=C1)C)C)O | C13H19ClO
reactant | sodium laurate | 0.13 mole | C(CCCCCCCCCCC)(=O)[O-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (4-Tert.-butyl-3-hydroxy-2,6-dimethylbenzyl)laurate | C(C)(C)(C)C1=C(C(=C(COC(CCCCCCCCCCC)=O)C(=C1)C)C)O | C25H42O3
